US08034563B1
4-Isocyanato-(2′-methyl)-benzophenone:
Modification of 5′-amino DNA: DNA to serve as the 3′-probe, carrying a 5′-deoxy-5′-amino nucleoside, is prepared by standard solid phase synthesis according to standard protocols. Phosphoramidites, including the 5′-amino nucleoside analog where the 5′-amino group is protected as a 5′-monomethoxytrityl ether, are available from Glen Research. The final detritylation will be done with 2% dichloroacetic acid for 15 min. The product is then treated with the isocyanato derivative in dimethylformamide at 25° C. The products are then purified by standard oligonucleotide HPLC (reversed phase C-18, water-acetonitrile eluant).

reactant | 5′-monomethoxytrityl ether | COC=1C=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC(C2=CC=CC=C2)(C2=CC=CC(=C2)OC)C2=CC=CC=C2)C1 | C40H34O3
reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Isocyanato-(2′-methyl)-benzophenone | N(=C=O)C1=CC=C(C(=O)C2=C(C=CC=C2)C)C=C1 | C15H11NO2
